US05681954
5,6-Dimethoxy-3-benzylidenephthalide
In a 25 ml flask were charged 4.0 g of m-hemipinic anhydride, 4.54 g of homoveratric acid, and sodium acetate, and the flask was buried in a sand bath at 235° to 240° C. to allow the mixture to react for 6 hours. The reaction mixture was purified by silica gel column chromatography (dichloromethane) to yield the title compound as a colorless amorphous compound.

reactant | homoveratric acid | 4.54 g | C(CC1=CC(OC)=C(OC)C=C1)(=O)O | C10H12O4
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
product | 5,6-Dimethoxy-3-benzylidenephthalide | COC=1C=C2C(OC(=O)C2=CC1OC)=CC1=CC=CC=C1 | C17H14O4
